US07223791B2
A mixture of methyl 4-[5-(4-trifluoromethylphenyl)-1,3,4-thiadiazol-2-yl]benzoate (0.838 g), 1 M aqueous sodium hydroxide solution (5 ml), tetrahydrofuran (100 ml) and methanol (50 ml) was heated under reflux for 1 hr. After cooling, the reaction mixture was poured into water, and 1 M hydrochloric acid was added to acidify the mixture. The mixture was extracted with ethyl acetate-tetrahydrofuran (1:1, volume ratio). The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was recrystallized from tetrahydrofuran to give 4 [5-(4-trifluoromethylphenyl)-1,3,4-thiadiazol-2-yl]benzoic acid (0.672 g, yield 83%) as a colorless crystalline powder. melting point: >300° C.

reactant | methyl 4-[5-(4-trifluoromethylphenyl)-1,3,4-thiadiazol-2-yl]benzoate | 0.838 g | FC(C1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)OC)C=C1)(F)F | C17H11F3N2O2S
reactant | sodium hydroxide | 1 M, 5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | [5-(4-trifluoromethylphenyl)-1,3,4-thiadiazol-2-yl]benzoic acid | 0.672 g, yield 83% | FC(C1=CC=C(C=C1)C1=NN=C(S1)C1=C(C(=O)O)C=CC=C1)(F)F | C16H9F3N2O2S
